US08455488B2
Synthesis of (S)-2-amino-N-(benzo[c][1,2,5]thiadiazol-4-ylmethyl)-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide IV-4)
According to the procedure described in the synthesis method of Compound IV-1, (9H-fluoren-9-yl)methyl (S)-1-((benzo[c][1,2,5]thiadiazol-4-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylcarbamate III-4) 509 mg (0.69 mmol) was treated with piperidine and purified on silica gel column chromatography (n-hexane:ethyl acetate=9:1, chloroform:methanol=100:0 and 8:2) to obtain the title compound 496 mg (139%).

reactant | (9H-fluoren-9-yl)methyl (S)-1-((benzo[c][1,2,5]thiadiazol-4-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylcarbamate | N=1SN=C2C1C=CC=C2CN(C([C@H](CC2=CC=C(C=C2)OC(C)(C)C)NC(OCC2C1=CC=CC=C1C=1C=CC=CC21)=O)=O)[C@H](C(OCC)OCC)C | C42H48N4O6S
reactant | piperidine | N1CCCCC1 | C5H11N
product | (S)-2-amino-N-(benzo[c][1,2,5]thiadiazol-4-ylmethyl)-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide | 496 mg, 139% | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC1=CC=CC2=NSN=C21)CC2=CC=C(C=C2)OC(C)(C)C | C27H38N4O4S
